US06403814B1
To a solution of (±)-trans-2-(3-hydroxy-4-propoxy-5-propylsulfonylphenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran (2.80 g, 5.66 mol) in acetone (40 ml) were added potassium carbonate (1.01 g, 7.36 mol) and N-(3-bromopropyl) pthalimide (2.06 g, 8.50 mmol). The reaction mixture was refluxed for 16 h. The reaction mixture was cooled to room temperature and acetone was removed, water was added and extracted with ethyl acetate (120 ml), dried (Na2SO4), filtered and concentrated. The crude product was purified on silica gel column using Ethyl acetate:light petroleum (2:5) to give (±)-trans-2-[3-(3-pthalimidopropoxy)-4-propoxy-5-propylsulfonyl phenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran as solid (3.71 g, 94%). TLC: Ethyl acetate:light petroleum (2:1), Rf=0.5 ; m.p. 195-196° C. 1H NMR (CDCl3, 200 MHz): δ 1.05 (t, J=7.14 Hz, 3H), 1.08 (t, J=6.66 Hz, 3H), 1.68-2.06 (m, 6H), 2.2-2.3 (m, 2H), 2.4-2.55 (m, 2H), 3.35 (m, 2H), 3.83 (s, 3H), 3.9 (s, 6H), 3.95 (t, J=6.6 Hz, 2H), 4.15 (t, J=6.13 Hz, 4H), 5.2 (m, 2H), 6.58 (s, 2H), 7.23 (d, J=1.5 Hz, 1H), 7.45 (d, J=1.51 Hz, 1H), 7.7 (m, 2H), 7.85 (m, 2H); IR (neat): 3010, 2975, 1775, 1715, 1600, 1490, 1380 cm−1 FAB Mass: 681(M+); HRMS: calculated. 681.260769; found. 681.265005.

reactant | (±)-trans-2-(3-hydroxy-4-propoxy-5-propylsulfonylphenyl)-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 5.66 mol, 2.80 g | OC=1C=C(C=C(C1OCCC)S(=O)(=O)CCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C25H34O8S
reactant | potassium carbonate | 7.36 mol, 1.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(3-bromopropyl) pthalimide | 8.50 mmol, 2.06 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | (±)-trans-2-[3-(3-pthalimidopropoxy)-4-propoxy-5-propylsulfonyl phenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 3.71 g, 94% | C1(C=2C(C(N1CCCOC=1C=C(C=C(C1OCCC)S(=O)(=O)CCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)=O)=CC=CC2)=O | C36H43NO10S
